US09029545B2
N-{2,6-Dimethyl-3-[3-(methyloxy)phenyl]thieno[2,3-b]pyridin-4-yl}-3-(methyloxy)benzenesulfonamide
To a stirred solution of 2,6-dimethyl-3-[3-(methyloxy)phenyl]thieno[2,3-b]pyridin-4-amine (Description 4) (120 mg, 0.422 mmol) in THF (2 mL), cooled in an ice bath, was added LiHMDS (1M solution in THF) (0.928 mL, 0.928 mmol). The reaction mixture was stirred at RT for 45 min before the addition of 3-(methyloxy)benzenesulfonyl chloride (218 mg, 1.055 mmol) and the reaction mixture was then stirred at RT for a further 12 h. The reaction mixture was then diluted with water (15 mL) and the aqueous layer extracted with DCM (3×30 mL) and the combined organic extracts dried over a phase separating column and concentrated. Purification by chromatography on silica gel, eluting with a gradient of 0-20% ethyl acetate in cyclohexane, afforded a solid which was dissolved in the minimum amount of DCM. Upon addition of diethyl ether, a solid precipitated out which was collected by filtration, washed with diethyl ether and dried, to afford the title compound (134 mg). LCMS (A) m/z: 455 [M+1]+, Rt 1.12 min (basic).

reactant | 2,6-dimethyl-3-[3-(methyloxy)phenyl]thieno[2,3-b]pyridin-4-amine | 0.422 mmol, 120 mg | CC1=C(C2=C(N=C(C=C2N)C)S1)C1=CC(=CC=C1)OC | C16H16N2OS
reactant | LiHMDS | 0.928 mmol, 1M, 0.928 mL | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | 3-(methyloxy)benzenesulfonyl chloride | 1.055 mmol, 218 mg | COC=1C=C(C=CC1)S(=O)(=O)Cl | C7H7ClO3S
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | water | 15 mL | O | H2O
solvent | DCM | C(Cl)Cl | CH2Cl2
product | N-{2,6-Dimethyl-3-[3-(methyloxy)phenyl]thieno[2,3-b]pyridin-4-yl}-3-(methyloxy)benzenesulfonamide | 134 mg | CC1=C(C=2C(=NC(=CC2NS(=O)(=O)C2=CC(=CC=C2)OC)C)S1)C1=CC(=CC=C1)OC | C23H22N2O4S2
